US08871796B2
N-[2-(3-{1-ethyl-4-iodo-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)propan-2-yl]-2,2,2-trifluoroethanesulfonamide
A solution of N-[2-(3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)propan-2-yl]-2,2,2-trifluoroethanesulfonamide (560 mg, 10.5 mmol) and DCM (6.97 mL) was cooled to 0° C., treated with NIS (706 mg, 3.14 mmol) in a single portion. The mixture was protected from light and allowed to warm to rt as it was stirred overnight. The reaction was diluted with EtOAc and washed with water 2×, sat. aq. NaHCO3, brine, dried (MgSO4) and concentrated to afford a white solid purified via MPLC, 25 g silica, 10-60% EtOAc in heptanes to afford a white solid: MS: cal'd 662 (MH+), exp 662 (MH+).

reactant | N-[2-(3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)propan-2-yl]-2,2,2-trifluoroethanesulfonamide | 10.5 mmol, 560 mg | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C23H23F6N3O3S
reactant | DCM | 6.97 mL | C(Cl)Cl | CH2Cl2
reactant | NIS | 3.14 mmol, 706 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2-(3-{1-ethyl-4-iodo-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)propan-2-yl]-2,2,2-trifluoroethanesulfonamide | C(C)N1N=C(C(=C1OC1=CC=C(C=C1)C(F)(F)F)I)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C23H22F6IN3O3S
